US08106043B2
tert-Butyl 4-(2-(2-hydroxyethylthio)-5-nitrophenylamino)piperidine-1-carboxylate:
To a stirred solution of tert-butyl 4-(2-chloro-5-nitrophenylamino)piperidine-1-carboxylate (1.25 g, 3.51 mmol) in DMF (10 mL) were added sequentially potassium carbonate (0.971 g, 7.03 mmol) and 2-mercaptoethanol (0.493 mL, 7.03 mmol). The resulting mixture was stirred at 60° C. for 1 hour, after which TLC analysis (2:3 ethyl acetate:hexanes) showed that the reaction was complete. The mixture was then diluted with ethyl acetate and washed sequentially with water and saturated sodium carbonate (3×). The organic phase was dried, filtered, concentrated, and then chromatographed in 2:3 ethyl acetate:hexanes, giving the desired product (1.202 g, 86%) as an orange foam. 1H NMR (DMSO-d6) δ 7.51 (d, J=8.4 Hz, 1H), 7.43-7.37 (m, 2H), 5.40 (d, J=8.1 Hz, 1H), 5.06 (t, J=5.4 Hz, 1H), 3.95-3.86 (m, 2H), 3.75-3.60 (m, 1H), 3.59-3.50 (m, 2H), 3.01-2.85 (m, 4H), 1.94-1.83 (m, 2H), 1.49-1.29 (m, 11H); ESI-MS (m/z, %): 420 (M+Na, 22), 342 (100).

reactant | tert-butyl 4-(2-chloro-5-nitrophenylamino)piperidine-1-carboxylate | 3.51 mmol, 1.25 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])NC1CCN(CC1)C(=O)OC(C)(C)C | C16H22ClN3O4
reactant | potassium carbonate | 7.03 mmol, 0.971 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-mercaptoethanol | 7.03 mmol, 0.493 mL | SCCO | C2H6OS
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 4-(2-(2-hydroxyethylthio)-5-nitrophenylamino)piperidine-1-carboxylate | 1.202 g, 86% | OCCSC1=C(C=C(C=C1)[N+](=O)[O-])NC1CCN(CC1)C(=O)OC(C)(C)C | C18H27N3O5S
